US05223539
N-cyclohexyl-4-[hydroxy(3,4,5-trimethoxyphenyl)methyl]-N-(1-methylethyl)benzamide
To a stirred, cold (-15° C.) solution of 3,4,5-trimethoxybromobenzene (965 mg, 3.9 mmol) in ethyl ether (15 ml) was added n-butyl lithium (3 ml of 1.6 M solution in hexane). The reaction mixture was stirred at -8° C. for 10 min., diluted with THF (5 ml) and warmed to 0° C. After stirring for 5 min., the reaction was cooled to -30° C. and a solution of terephthalaldehydic acid N-isopropyl-N-cyclohexyl amide (1.063 g, 3.9 mmol) in THF (5 ml) was added. After stirring at -30° C. for 10 min. and warming to room temperature, the reaction mixture was poured onto 0.5N KHSO4 and extracted with ethyl acetate. The organic layer was washed with saturated NaCl solution and dried (MgSO4). The drying agent was filtered and the filtrate concentrated in vacuo to give the crude product. This was chromatographed on silica gel using mixtures of ethyl acetate and hexane as eluents to give the title compound as a crystalline solid that could be recrystallized from cyclohexane containing a small amount of ethyl acetate, m. pt. 158-160° C.

reactant | 3,4,5-trimethoxybromobenzene | 3.9 mmol, 965 mg | COC=1C=C(C=C(C1OC)OC)Br | C9H11BrO3
reactant | n-butyl lithium | 1.6 M, 3 ml | C(CCC)[Li]
reactant | terephthalaldehydic acid N-isopropyl-N-cyclohexyl amide | 3.9 mmol, 1.063 g | C(C)(C)N(C(C1=CC=C(C=O)C=C1)=O)C1CCCCC1 | C17H23NO2
reactant | KHSO4 | 0.5N | OS(=O)(=O)[O-].[K+]
solvent | ethyl ether | 15 ml | C(C)OCC | C4H10O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | N-cyclohexyl-4-[hydroxy(3,4,5-trimethoxyphenyl)methyl]-N-(1-methylethyl)benzamide | C1(CCCCC1)N(C(C1=CC=C(C=C1)C(C1=CC(=C(C(=C1)OC)OC)OC)O)=O)C(C)C | C26H35NO5
